US04367234
5-(2,6-Difluorophenyl)oxazolidine-2,4-dione
By the procedure of Example 89, ethyl 1-hydroxy-1-(2,6-difluorophenyl)methanecarboximidate hydrochloride (12 g., 0.048 mole) in 500 ml. of tetrahydrofuran was converted to crude product. The crude was recrystallized from about 60 ml. of isopropanol to yield purified 5-(2,6-difluorophenyl)oxazolidine-2,4-dione [5.8 g., 57%; m.p. 196°-198° C., m/e 213 ir (KBr) 3175, 1812, 1739, 1361, 1152 cm-1 ].

reactant | ethyl 1-hydroxy-1-(2,6-difluorophenyl)methanecarboximidate hydrochloride | 0.048 mole, 12 g | Cl.OC(C(OCC)=N)C1=C(C=CC=C1F)F
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-(2,6-Difluorophenyl)oxazolidine-2,4-dione | FC1=C(C(=CC=C1)F)C1C(NC(O1)=O)=O | C9H5F2NO3
